US08420816B2
Step A: (R)-4-((1-tert-butoxy-3-methyl-1-oxobutan-2-ylamino)methyl)-5-fluoro-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
A mixture of sodium triacetoxyborohydride (1.143 g, 5.39 mmol), (R)-tert-butyl 2-amino-3-methylbutanoate hydrochloride (1.131 g, 5.39 mmol) and DCM (20 mL) was stirred at room temperature for 10 min. The reaction mixture was cooled to 0° C. 5-fluoro-4-formyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (1.299 g, 3.60 mmol) was added and the reaction was stirred at 0° C. for 20 min to afford the title compound. [M+H] calc'd for C25H30FN3O6S, 520; found, 520.2.

reactant | sodium triacetoxyborohydride | 5.39 mmol, 1.143 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (R)-tert-butyl 2-amino-3-methylbutanoate hydrochloride | 5.39 mmol, 1.131 g | Cl.N[C@@H](C(=O)OC(C)(C)C)C(C)C
reactant | 5-fluoro-4-formyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 3.60 mmol, 1.299 g | FC=1C(=C2C(=NC1)N(C=C2C(=O)[O-])S(=O)(=O)C2=CC=C(C)C=C2)C=O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-((1-tert-butoxy-3-methyl-1-oxobutan-2-ylamino)methyl)-5-fluoro-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | C(C)(C)(C)OC([C@@H](C(C)C)NCC1=C2C(=NC=C1F)N(C=C2C(=O)O)S(=O)(=O)C2=CC=C(C)C=C2)=O | C25H30FN3O6S
